US07229999B2
5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[methyl-(4-methyl-thiazol-2-ylmethyl)-amino]-nicotinamide
The title compound was synthesized in analogy to Example 74, using 5-bromo-6-chloro-nicotinic acid methyl ester, methyl-(4-methyl-thiazol-2-ylmethyl)-amine (CAS [644950-37-8]), (4-chloro-phenyl)-boronic acid and (1R,2R)-2-amino-cyclohexanol hydrochloride as starting materials to yield 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[methyl-(4-methyl-thiazol-2-ylmethyl)-amino]-nicotinamide. MS (ISP) 471.2 (M+H)+.

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | methyl-(4-methyl-thiazol-2-ylmethyl)-amine | CNCC=1SC=C(N1)C | C6H10N2S
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
product | 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[methyl-(4-methyl-thiazol-2-ylmethyl)-amino]-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)N(CC=1SC=C(N1)C)C | C24H27ClN4O2S
